data/mechanism_extracts/ChemCommun/10.1039_D4CC02543A.json
{"doi": "10.1039_D4CC02543A", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical difluoromethylation/Smiles rearrangement of N-arylsulfonyl acrylamides with CF2HSO2Na to afford β-difluoromethylamides via radical addition, aryl migration, and desulfonylation", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of CF2HSO2Na (sodium difluoromethanesulfinate) to generate CF2H radical with loss of SO2 and electron; cathode reduces protons to H2", "key_intermediates": [{"name": "CF2H radical generated from anodic oxidation of CF2HSO2Na", "smiles": "[CH](F)F", "role": "reactive"}, {"name": "Intermediate A: tertiary C-radical from CF2H addition to acrylamide alkene", "smiles": null, "role": "transient"}, {"name": "Intermediate B: spirocyclic cyclohexadienyl radical from ipso-attack on N-aryl ring (Smiles cyclization)", "smiles": null, "role": "transient"}, {"name": "Intermediate C: N-centered (aminyl) radical after extrusion of SO2", "smiles": null, "role": "reactive"}, {"name": "β-difluoromethylamide product 3a", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF2HSO2Na (Eox ~1.40 V) to release SO2 and CF2H radical, which adds to the acrylamide alkene of 1a forming carbon radical A; intramolecular ipso-attack on the N-aryl ring gives spirocyclic radical B, which loses SO2 to form nitrogen radical C; C is reduced/abstracts H (proton from trace water) to give product 3a while the cathode evolves H2.", "rate_determining_step": "Anodic oxidation of CF2HSO2Na to generate CF2H radical (irreversible oxidation peak at 1.40 V vs Ag/AgCl)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace 3g formed; TEMPO-CF2H adduct detected by HRMS (M+H+ 321.3189), confirming CF2H radical"}, {"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C", "purpose": "radical_trap", "observation": "Only trace 3g; BHT-CF2H adduct detected by HRMS (M+H+ 271.1848)"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "In ultradry CH3CN with 10 equiv D2O, 43% D incorporation on N-H of product (39% yield), showing N-H hydrogen originates from water"}, {"name": "CD3CN/DCE (no D2O)", "smiles": "[2H]C([2H])([2H])C#N", "purpose": "isotope_label", "observation": "0% D incorporation (34% yield), excluding solvent CH3CN as H source"}, {"name": "Divided cell experiment", "smiles": null, "purpose": "other", "observation": "Product 3a obtained in 65% yield in separated electrolytic cell, ruling out paired-electrolysis coupling requirement"}, {"name": "Cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "CF2HSO2Na shows irreversible oxidation at 1.40 V; 1a oxidizes at 1.90 V (irreversible) — sulfinate is preferentially oxidized at the anode"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "Smiles-type 1,4-aryl migration from sulfonyl-N to carbon with extrusion of SO2 is invoked. Control with divided cell shows pairing of anodic/cathodic half-reactions is not required for productivity. The N-H proton was shown to derive from adventitious/added water rather than acetonitrile solvent."}
